US07622492B2
Trifluoroacetic acid (25.5 mL) was added to a solution of N-benzyl-N′-((1S,4S)-4,7,7-trimethyl-3-oxo-bicyclo[2.2.1]heptane-2-carbonyl)-hydrazinecarboxylic acid tert-butyl ester (˜30 mmol) in dichloromethane (25.5 mL) at 0° C. The reaction mixture was stirred at 0° C. for 30 min, at room temperature for 2 h, heated in a flak equipped with a reflux condenser at an oil-bath temperature of 80° C. for 6 h, and then at an oil-bath temperature of 100° C. overnight in the presence of molecular sieves. The molecular sieves were filtered off and washed with dichloromethane. The filtrate was washed with water until the washings were neutral. The organic layer was dried (sodium sulfate), filtered, evaporated, and purified using a Biotage system with a 330 g column, eluting with 2-5% methanol/dichloromethane, to give (4R,7S)-1-benzyl-7,8,8-trimethyl-1,2,4,5,6,7-hexahydro-4,7-methano-indazol-3-one (610 mg, 7%) as a yellow solid.

reactant | Trifluoroacetic acid | 25.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-benzyl-N′-((1S,4S)-4,7,7-trimethyl-3-oxo-bicyclo[2.2.1]heptane-2-carbonyl)-hydrazinecarboxylic acid tert-butyl ester | ˜30 mmol | C(C)(C)(C)OC(=O)N(NC(=O)C1[C@@H]2CC[C@](C1=O)(C2(C)C)C)CC2=CC=CC=C2 | C23H32N2O4
solvent | dichloromethane | 25.5 mL | ClCCl | CH2Cl2
product | (4R,7S)-1-benzyl-7,8,8-trimethyl-1,2,4,5,6,7-hexahydro-4,7-methano-indazol-3-one | 610 mg, 7% | C(C1=CC=CC=C1)N1NC(C=2[C@@H]3CC[C@](C12)(C3(C)C)C)=O | C18H22N2O
